US08071766B2
To a solution of O-(2-morpholinoethyl)hydroxylamine (600 mg, 4.1 mmol) in anhydrous toluene (6 mL) was added (R)-2-amino-7-(2-bromo-4-fluorophenyl)-4-methyl-7,8-dihydropyrido[4,3-d]pyrimidine-5(6H)-thione (0.150 g, 0.41 mmol) and mercuric acetate (II) (262 mg, 0.82 mmol). The resultant mixture was heated to 100° C. for 1 h. The reaction was allowed to cool to r.t. and filtered through a pad of Celite, rinsing with EtOAc and CH3OH. The filtrate was concentrated to provide a yellow-green oil, which was purified by preparative HPLC eluting with TFA/ACN/H2O. The fractions were concentrated to provide (R,Z)-2-amino-7-(2-bromo-4-fluorophenyl)-4-methyl-7,8-dihydropyrido[4,3-d]pyrimidin-5(6H)-one O-2-morpholinoethyl oxime (196 mg, 0.41 mmol). [M+H] calc'd for C20H24BrFN6O2, 480. found, 480.

reactant | O-(2-morpholinoethyl)hydroxylamine | 4.1 mmol, 600 mg | O1CCN(CC1)CCON | C6H14N2O2
reactant | (R)-2-amino-7-(2-bromo-4-fluorophenyl)-4-methyl-7,8-dihydropyrido[4,3-d]pyrimidine-5(6H)-thione | 0.41 mmol, 0.150 g | NC=1N=C(C2=C(N1)C[C@@H](NC2=S)C2=C(C=C(C=C2)F)Br)C | C14H12BrFN4S
solvent | toluene | 6 mL | C1(=CC=CC=C1)C | C7H8
product | (R,Z)-2-amino-7-(2-bromo-4-fluorophenyl)-4-methyl-7,8-dihydropyrido[4,3-d]pyrimidin-5(6H)-one O-2-morpholinoethyl oxime | 0.41 mmol, 196 mg | O1CCN(CC1)CCO\N=C\1/N[C@H](CC=2N=C(N=C(C21)C)N)C2=C(C=C(C=C2)F)Br | C20H24BrFN6O2
